US09255089B2
1-acetyl-4-((6-aminopyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one
To a microwave vial capped with a septum, 4-(dimethylamino)pyridine (5.8 mg, 0.047 mmol) and triethylamine (9 μL, 0.07 mmol) in N,N-dimethylformamide (0.5 mL) were cooled to 0° C. in a nitrogen atmosphere. Acetic anhydride (4.4 μL, 0.047 mmol) was added and the reaction mixture was stirred for 15 minutes at 0° C. before a solution of 4-((6-aminopyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one (10 mg, 0.023 mmol) in N,N-dimethylformamide (0.25 mL) was added dropwise to the reaction mixture. The reaction was allowed to warm to room temperature and stirred for thirty minutes (or until completion). The reaction was quenched with water and diluted with ethyl acetate. The organic layer was separated and saved and the organic layer was extracted with ethyl acetate (three times, 20 mL each). The organic fractions were collected, dried over MgSO4, filtered and concentrated. The product was isolated by preparatory HPLC to yield a clear oil.

reactant | triethylamine | 0.07 mmol, 9 μL | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.047 mmol, 4.4 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-((6-aminopyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.023 mmol, 10 mg | NC1=CC=CC(=N1)C(C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C)(C2=NC=CC=C2)O | C23H20N6O3
catalyst | 4-(dimethylamino)pyridine | 0.047 mmol, 5.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
product | 1-acetyl-4-((6-aminopyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | C(C)(=O)N1C(NC2=C1C=C(C=C2C(C2=NC=CC=C2)(O)C2=NC(=CC=C2)N)C=2C(=NOC2C)C)=O | C25H22N6O4
